data/mechanisms/records/IMS8-EQ8.17.json
{"mechanism_id": "IMS8-EQ8.17", "species": [{"species_id": "hydroxy_ester_molecular_ion_carbonyl_O_ionized", "mapped_smiles": "[CH3:3][CH:1]([O:2][1H:13])[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][C:9](=[O+:10])[O:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_alkoxy_radical_protonated_ester", "mapped_smiles": "[CH3:3][CH:1]([O:2])[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][C:9](=[O+:10][1H:13])[O:11][CH3:12]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "aldehyde_neutral_from_carbinol", "mapped_smiles": "[CH3:3][CH:1]=[O:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ester_distonic_OE_ion", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][C:9](=[O+:10][1H:13])[O:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["hydroxy_ester_molecular_ion_carbonyl_O_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_alkoxy_radical_protonated_ester"]}, {"state_id": "state_products", "species_ids": ["aldehyde_neutral_from_carbinol", "ester_distonic_OE_ion"]}], "steps": [{"step_id": "step_rH_hydroxyl_H_to_ester_carbonyl", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [10]}, "target": {"type": "bond", "atom_maps": [10, 13]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 13]}, "target": {"type": "bond", "atom_maps": [10, 13]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 13]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage_to_aldehyde", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydroxyl_H_to_ester_carbonyl", "support_type": "textbook_proposed", "locator": {"page": 149, "equation": "8.17", "figure": null, "panel": null, "section": "8.2 Product stability (Neutral-product stability; -OH location in hydroxy fatty-acid methyl esters)"}, "confidence": 0.8, "curator_note": "Eq 8.17, p.149, step 1 of 2. A hydroxy-substituted fatty-acid methyl ester, drawn as its molecular ion n-ionized at the ESTER carbonyl oxygen: the book prints '+.' on that carbonyl O (map 10), so the precursor SMILES carries =[O+:10] with one radical electron (convention B). 'Analogous' to eq 8.16, the reaction is a hydroxyl-H rearrangement: the carbonyl O radical abstracts the remote hydroxyl H (map 13, on carbinol O map 2) through a large-ring TS, giving the drawn distonic intermediate -- an alkoxy radical on the carbinol O ('.O', map 2) and a protonated ester carbonyl ('H-O+', map 10, now even-electron oxocarbenium). ARC COUNT: the book draws 0 electron arc(s) for this step -- it is denoted only by the 'rH' label over the first arrow (the drawn arcs on the intermediate belong to step 2). The three encoded fishhooks are the balanced H-atom-transfer flow implied by 'rH': move <1> the carbonyl-O odd electron (map 10) into the forming O10-H13 bond; move <2> one electron of the breaking O2-H13 bond into that same forming O10-H13 bond; move <3> the other O2-H13 electron onto oxygen map 2, its new alkoxy radical site. Net: H13 migrates O2 -> O10 and the odd electron migrates O10 -> O2; mass unchanged (still M+.). Instantiated R = CH3, n = 5 (methyl 7-hydroxyoctanoate, M+. = C9H18O3, m/z 174.1250) so the eventual charged fragment is exactly the printed m/z 130 member of the series."}, {"evidence_id": "evidence_step_alpha_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_to_aldehyde", "support_type": "textbook_proposed", "locator": {"page": 149, "equation": "8.17", "figure": null, "panel": null, "section": "8.2 Product stability (Neutral-product stability; -OH location in hydroxy fatty-acid methyl esters)"}, "confidence": 0.8, "curator_note": "Eq 8.17, p.149, step 2 of 2. Radical-site (alpha) cleavage driven by the carbinol alkoxy radical (map 2): the C1-C4 bond alpha to the O radical breaks, the carbinol carbon closes to the aldehyde C1=O2 (neutral R-CHO), and the odd electron is expelled onto the chain carbon (map 4, '.CH2') giving the diagnostic ODD-ELECTRON ester ion. This ion (protonated methyl-ester carbonyl carrying a terminal chain radical) is the OE+. series the text cites at m/z 130, 144, 158, ..., 270 (differing by CH2), which locates the -OH substitution position. ARC COUNT: the book draws 2 arc(s) on the intermediate -- move <1> (the small fishhook off the '.O' radical dot on map 2) = the alkoxy odd electron into the forming C1=O2 pi bond; move <2> (the large curved arc sweeping from the C1-C4 bond up toward the carbinol carbon/oxygen) = one electron of the breaking C1-C4 sigma bond into that same forming C1=O2 pi bond. Move <3>, the other C1-C4 electron onto carbon map 4 (the odd electron of the departing/retained '.CH2' fragment), is an implicit homolysis hook required for electron balance (not drawn on the page -- the book simply writes '.(CH2)n' with a radical dot as the product). Instantiated R = CH3, n = 5: neutral = acetaldehyde CH3CHO (C2H4O, not detected); ion = .(CH2)5-C(=O+H)-OCH3 (C7H14O2+., computed monoisotopic m/z 130.0988; the book prints the nominal value 130)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 174.125, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_130", "species_id": "ester_distonic_OE_ion", "step_id": "step_alpha_cleavage_to_aldehyde", "observed_mz": 130.0988, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
